US09303007B2
DIPEA (3.47 mL, 19.88 mmol) was added to a stirred slurry of crude 2-bromo-1-(6-bromonaphthalen-2-yl)ethanone (4.35 g, 13.3 mmol) and (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid (3.01 g, 13.25 mmol) in acetonitrile (80 mL) and the reaction was stirred at rt overnight. The reaction was concentrated to dryness and purified by BIOTAGE® Horizon (160 g SiO2, 10-20% EtOAc/hexanes). The fractions containing the desired product were allowed to stand for 3 d. Some fractions had crashed large crystals (collected 240 mg, pure desired product by 1H NMR). All fractions containing the desired product were collected and concentrated to a yellow solidified foam which was slurried with Et2O (˜40 mL). The white solid that formed was collected by filtration and rinsed with Et2O to yield (1R,3S,5R)-3-(2-(6-bromonaphthalen-2-yl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate (3.24 g). LC-MS retention time 2.760 min; m/z 472, 474.02 (1:1) (MH−). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 mHz, MeOD) d ppm 8.61 (br s, 1H), 8.17 (s, 1H), 8.03 (d, J=8.6 Hz, 1H), 8.00 (d, J=8.9 Hz, 1H), 7.94 (d, J=8.9 Hz, 1H), 7.71 (dd, J=8.6, 1.8 Hz, 1H), 5.75-5.66 (m, 1H), 5.61-5.46 (m, 1H), 4.34-4.26 (m, 1H), 3.46 (br s, 1H), 2.69-2.59 (m, 1H), 2.55-2.44 (m, 1H), 1.73 (br s, 1H), 1.54-1.43 (m, 9H), 0.88 (br s, 1H), 0.59-0.53 (m, 1H).

reactant | DIPEA | 19.88 mmol, 3.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-1-(6-bromonaphthalen-2-yl)ethanone | 13.3 mmol, 4.35 g | BrCC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C12H8Br2O
reactant | (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid | 13.25 mmol, 3.01 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (1R,3S,5R)-3-(2-(6-bromonaphthalen-2-yl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate | 3.24 g | [C@@H]12N([C@@H](C[C@H]2C1)C(=O)OCC(=O)C1=CC2=CC=C(C=C2C=C1)Br)C(=O)OC(C)(C)C | C23H24BrNO5
